### PR TITLE
[Merged by Bors] - feat: topology on module over topological ring

### PR DESCRIPTION
**Pull request by kbuzzard**
Given a module over a topological ring, we define the module topology on this module to be the finest module making it into a topological module (i.e. the finest topology making addition and scalar multiplication continuous).

NB this PR gave rise to a discussion about whether `⨆ a ∈ s, f a` or `sSup (f '' s)` should be the simp normal form, which was discussed on [Zulip](https://leanprover.zulipchat.com/#narrow/stream/287929-mathlib4/topic/normal.20form.20for.20pullback.20of.20Inf.20of.20topologies/near/472676441) without any clear conclusion.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

I wanted this because for a finite free module it can be checked to be the product topology, and for an algebra over a commutative topological ring which is finite as a module, multiplication in the algebra is automatically continuous with this topology. I have all of these results in the FLT repo [in this file](https://github.com/ImperialCollegeLondon/FLT/blob/main/FLT/ForMathlib/ActionTopology.lean). What inspired me to PR it to mathlib was Yael's question [here](https://leanprover.zulipchat.com/#narrow/stream/217875-Is-there-code-for-X.3F/topic/Topology.20on.20a.20finite.20dimensional.20vector.20space/near/469687218) -- this topology gives a very nice answer to that question.

### CODE REVIEW

File: Mathlib/Topology/Algebra/Module/Action.lean [hunk 1]
```diff
@@ -0,0 +1,233 @@
...
+     `continuousSMul_sInf`.
+  -/
+  continuousSMul_sInf <| fun _ _ ↦ by simp_all only [Set.mem_setOf_eq]
+
+/-- Addition `+ : A × A → A` is continuous if `R` is a topological
+ring, and `A` is an `R` module with the action topology. -/
+theorem ActionTopology.continuousAdd : @ContinuousAdd A (actionTopology R A) _ :=
+  continuousAdd_sInf <| fun _ _ ↦ by simp_all only [Set.mem_setOf_eq]
+
+instance instisActionTopology_continuousSMul [TopologicalSpace A] [IsActionTopology R A] :
```
Comment (eric-wieser) [inline Mathlib/Topology/Algebra/Module/Action.lean:130]:
```suggestion
instance IsActionTopology.toContinuousSMul [TopologicalSpace A] [IsActionTopology R A] :
```

File: Mathlib/Topology/Algebra/Module/Action.lean [hunk 2]
```diff
@@ -0,0 +1,233 @@
...
+into a topological `R`-module. More precisely it's the Inf of the set of
+topologies with these properties; theorems `continuousSMul` and `continuousAdd` show
+that the action topology also has these properties. -/
+abbrev actionTopology : TopologicalSpace A :=
+  sInf {t | @ContinuousSMul R A _ _ t ∧ @ContinuousAdd A t _}
+
+/-- A class asserting that the topology on a module over a topological ring `R` is
+the action topology. See `actionTopology` for more discussion of the action topology. -/
+class IsActionTopology [τA : TopologicalSpace A] : Prop where
+  isActionTopology' : τA = actionTopology R A
```
Comment (eric-wieser) [inline Mathlib/Topology/Algebra/Module/Action.lean:107]: This is a proof type, so
```suggestion
  eq_actionTopology' : τA = actionTopology R A
```

File: Mathlib/Topology/Order.lean [hunk 3]
```diff
@@ -409,6 +414,11 @@ theorem coinduced_iSup {ι : Sort w} {t : ι → TopologicalSpace α} :
     (⨆ i, t i).coinduced f = ⨆ i, (t i).coinduced f :=
   (gc_coinduced_induced f).l_iSup
 
+@[simp]
+theorem coinduced_sSup {s : Set (TopologicalSpace β)} :
+    TopologicalSpace.coinduced g (sSup s) = sSup ((TopologicalSpace.coinduced g) '' s) := by
+  rw [sSup_eq_iSup', sSup_image', coinduced_iSup]
```
Comment (eric-wieser) [inline Mathlib/Topology/Order.lean:420]: Does this also work as `(gc_coinduced_induced f).l_sSup` or similar?

File: Mathlib/Topology/Algebra/Module/Action.lean [hunk 4]
```diff
@@ -0,0 +1,238 @@
...
+* `ActionTopology.instSelf : IsActionTopology R R`. The action topology on `R` is `R`'s topology.
+* `ActionTopology.iso [IsActionTopology R A] (e : A ≃L[R] B) : IsActionTopology R B`. If `A` and
+    `B` are `R`-modules with topologies, if `e` is a topological isomorphism between them,
+    and if `A` has the action topology, then `B` has the action topology.
+
+## TODO
+
+Forthcoming PRs from the FLT repo will show that the action topology on a (binary or finite) product
+of modules is the product of the action topologies, and that the action topology on the quotient
+of a module `M` is the quotient topology when `M` is equipped with the action topology.
```
Comment (eric-wieser) [inline Mathlib/Topology/Algebra/Module/Action.lean:76]: I was just about to ask for these, but I guess I don't need to. Leaving them to a future PR is fine!

File: Mathlib/Topology/Algebra/Module/Action.lean [hunk 5]
```diff
@@ -0,0 +1,238 @@
...
+equipped with the action topology and if furthermore `M` is finite as an `R`-module,
+then any bilinear map `M × N → P` is continuous.
+
+As a consequence of this, we deduce that if `R` is a commutative topological ring
+and `A` is an `R`-algebra of finite type as `R`-module, then `A` with its module
+topology becomes a topological ring (i.e., multiplication is continuous).
+
+Other TODOs (not done in the FLT repo):
+
+*) The action topology is a functor from the category of `R`-modules
```
Comment (eric-wieser) [inline Mathlib/Topology/Algebra/Module/Action.lean:88]:
```suggestion
* The action topology is a functor from the category of `R`-modules
```
for markdown rendering

File: Mathlib/Topology/Order.lean (hunk 3 above)
Comment (kbuzzard) [reply Mathlib/Topology/Order.lean:420]: Annoyingly, no:
```
type mismatch
  GaloisConnection.l_sSup (gc_coinduced_induced g)
has type
  TopologicalSpace.coinduced g (sSup s) = ⨆ a ∈ s, TopologicalSpace.coinduced g a : Prop
but is expected to have type
  TopologicalSpace.coinduced g (sSup s) = sSup (TopologicalSpace.coinduced g '' s) : Prop
```

File: Mathlib/Topology/Algebra/Module/Action.lean (hunk 4 above)
Comment (kbuzzard) [reply Mathlib/Topology/Algebra/Module/Action.lean:76]: I figured 250 lines was plenty for the PR of the definition (about 50% of them are comments though!)

File: Mathlib/Topology/Order.lean (hunk 3 above)
Comment (eric-wieser) [reply Mathlib/Topology/Order.lean:420]: I think the issue here is that we can't agree whether `⨆ a ∈ s, f a` or `sSup (f '' s)` is the preferred spelling, and so the library lemma uses the first and yours uses the second. I think @urkud prefers the former, but I'd argue that having `sSup` on both sides of the equality is more important, so I prefer the latter.

Comment (kbuzzard) [reply Mathlib/Topology/Order.lean:420]: So are you arguing for `GaloisConnection.l_sSup'` with your preferred spelling? And should this be a separate PR? I am quite happy to dump this lemma completely in this PR, it's unused, it's only there for symmetry's sake.

File: Mathlib/Topology/Algebra/Module/Action.lean [hunk 6]
```diff
@@ -0,0 +1,238 @@
...
+Forthcoming PRs from the FLT repo will show that the action topology on a (binary or finite) product
+of modules is the product of the action topologies, and that the action topology on the quotient
+of a module `M` is the quotient topology when `M` is equipped with the action topology.
+
+We will also show the slightly more subtle result that if `M`, `N` and `P` are `R`-modules
+equipped with the action topology and if furthermore `M` is finite as an `R`-module,
+then any bilinear map `M × N → P` is continuous.
+
+As a consequence of this, we deduce that if `R` is a commutative topological ring
+and `A` is an `R`-algebra of finite type as `R`-module, then `A` with its module
```
Comment (kbuzzard) [inline Mathlib/Topology/Algebra/Module/Action.lean:83]:
```suggestion
and `A` is an `R`-algebra of finite type as `R`-module, then `A` with its action
```

File: Mathlib/Topology/Order.lean (hunk 3 above)
Comment (kbuzzard) [reply Mathlib/Topology/Order.lean:420]: The Zulip discussion [here](https://leanprover.zulipchat.com/#narrow/stream/287929-mathlib4/topic/normal.20form.20for.20pullback.20of.20Inf.20of.20topologies/near/472676441) seems to indicate that what I'm doing here is fine.

File: Mathlib/Topology/Algebra/Module/Action.lean [hunk 7]
```diff
@@ -0,0 +1,238 @@
...
+then any bilinear map `M × N → P` is continuous.
+
+As a consequence of this, we deduce that if `R` is a commutative topological ring
+and `A` is an `R`-algebra of finite type as `R`-module, then `A` with its action
+topology becomes a topological ring (i.e., multiplication is continuous).
+
+Other TODOs (not done in the FLT repo):
+
+* The action topology is a functor from the category of `R`-modules
+to the category of topological `R`-modules, and it's an adjoint to the forgetful functor.
```
Comment (eric-wieser) [inline Mathlib/Topology/Algebra/Module/Action.lean:89]:
```suggestion
* The action topology is a functor from the category of `R`-modules
  to the category of topological `R`-modules, and it's an adjoint to the forgetful functor.
```

File: Mathlib/Topology/Algebra/Module/Action.lean [hunk 8]
```diff
@@ -0,0 +1,238 @@
...
+that the action topology also has these properties. -/
+abbrev actionTopology : TopologicalSpace A :=
+  sInf {t | @ContinuousSMul R A _ _ t ∧ @ContinuousAdd A t _}
+
+/-- A class asserting that the topology on a module over a topological ring `R` is
+the action topology. See `actionTopology` for more discussion of the action topology. -/
+class IsActionTopology [τA : TopologicalSpace A] : Prop where
+  eq_actionTopology' : τA = actionTopology R A
+
+theorem eq_ActionTopology [τA : TopologicalSpace A] [IsActionTopology R A] :
```
Comment (eric-wieser) [inline Mathlib/Topology/Algebra/Module/Action.lean:114]:
```suggestion
theorem eq_actionTopology [τA : TopologicalSpace A] [IsActionTopology R A] :
```

File: Mathlib/Topology/Algebra/Module/Action.lean [hunk 9]
```diff
@@ -0,0 +1,238 @@
...
+some infrastructure.
+-/
+variable (R : Type*) [TopologicalSpace R] (A : Type*) [Add A] [SMul R A]
+
+/-- The action topology, for a module `A` over a topological ring `R`. It's the finest topology
+making addition and the `R`-action continuous, or equivalently the finest topology making `A`
+into a topological `R`-module. More precisely it's the Inf of the set of
+topologies with these properties; theorems `continuousSMul` and `continuousAdd` show
+that the action topology also has these properties. -/
+abbrev actionTopology : TopologicalSpace A :=
```
Comment (eric-wieser) [inline Mathlib/Topology/Algebra/Module/Action.lean:106]: Should this be in the `Topology` or `TopologicalSpace` namespace? cc @urkud, @YaelDillies .

File: Mathlib/Topology/Algebra/Module/Action.lean [hunk 10]
```diff
@@ -0,0 +1,238 @@
...
+  sInf {t | @ContinuousSMul R A _ _ t ∧ @ContinuousAdd A t _}
+
+/-- A class asserting that the topology on a module over a topological ring `R` is
+the action topology. See `actionTopology` for more discussion of the action topology. -/
+class IsActionTopology [τA : TopologicalSpace A] : Prop where
+  eq_actionTopology' : τA = actionTopology R A
```
Comment (eric-wieser) [inline Mathlib/Topology/Algebra/Module/Action.lean:112]:
```suggestion
  /-- Note that this should not be used directly, and `eq_actionTopology`, which takes `R` and `A` explicitly, should be used instead. -/
  eq_actionTopology' : τA = actionTopology R A
```

File: Mathlib/Topology/Algebra/Module/Action.lean [hunk 11]
```diff
@@ -0,0 +1,238 @@
...
+theorem IsActionTopology.toContinuousAdd [TopologicalSpace A] [IsActionTopology R A] :
+    ContinuousAdd A := eq_ActionTopology R A ▸ ActionTopology.continuousAdd R A
+
+/-- The action topology is `≤` any topology making `A` into a topological module. -/
+theorem actionTopology_le [τA : TopologicalSpace A] [ContinuousSMul R A] [ContinuousAdd A] :
+    actionTopology R A ≤ τA := sInf_le ⟨inferInstance, inferInstance⟩
+
+end basics
+
+namespace ActionTopology
```
Comment (eric-wieser) [inline Mathlib/Topology/Algebra/Module/Action.lean:148]:
```suggestion
namespace IsActionTopology
```

File: Mathlib/Topology/Algebra/Module/Action.lean [hunk 12]
```diff
@@ -0,0 +1,238 @@
...
+
+/-
+
+We now fix once and for all a topological semiring `R`.
+
+We first prove that the action topology on `R` considered as a module over itself,
+is `R`'s topology.
+
+-/
+instance instSelf (R : Type*) [Semiring R] [τR : TopologicalSpace R] [TopologicalSemiring R] :
```
Comment (eric-wieser) [inline Mathlib/Topology/Algebra/Module/Action.lean:170]:
```suggestion
instance _root_.TopologicalSemiring.toIsActionTopology (R : Type*) [Semiring R] [τR : TopologicalSpace R] [TopologicalSemiring R] :
```
can you add the `MulOpposite` action too?

File: Mathlib/Topology/Order.lean [hunk 13]
```diff
@@ -396,6 +396,11 @@ theorem induced_iInf {ι : Sort w} {t : ι → TopologicalSpace α} :
     (⨅ i, t i).induced g = ⨅ i, (t i).induced g :=
   (gc_coinduced_induced g).u_iInf
 
+@[simp]
+theorem induced_sInf {s : Set (TopologicalSpace α)} :
+    TopologicalSpace.induced g (sInf s) = sInf ((TopologicalSpace.induced g) '' s) := by
```
Comment (eric-wieser) [inline Mathlib/Topology/Order.lean:401]: nit:
```suggestion
    TopologicalSpace.induced g (sInf s) = sInf (TopologicalSpace.induced g '' s) := by
```
and below

File: Mathlib/Topology/Algebra/Module/Action.lean (hunk 9 above)
Comment (YaelDillies) [reply Mathlib/Topology/Algebra/Module/Action.lean:106]: No strong opinion here

File: Mathlib/Topology/Algebra/Module/Action.lean (hunk 8 above)
Comment (kbuzzard) [reply Mathlib/Topology/Algebra/Module/Action.lean:114]: Oh yes -- thanks.

File: Mathlib/Topology/Algebra/Module/Action.lean (hunk 12 above)
Comment (kbuzzard) [reply Mathlib/Topology/Algebra/Module/Action.lean]: Do you mean "prove `IsActionTopology R Rᵐᵒᵖ`? Or more generally "prove IsActionTopology R M -> IsActionTopology R Mᵐᵒᵖ`? The simplest way to do this would be to deduce it from the fact that `M` and  `Mᵐᵒᵖ` are ContinuousLinearEquiv, and then it follows immediately from the results in this PR. However we don't seem to have this result; we have that they're isomorphic as R-modules and that they're homeomorphic, but we don't have the `ContinuousLinearEquiv`. Do you want me to make a new file adding only this result? In this PR? Or did I misunderstand?

Comment (YaelDillies) [reply Mathlib/Topology/Algebra/Module/Action.lean]: I think you are misunderstanding. Eric is not talking about opposing the `M` but opposing the `R` instead

Comment (YaelDillies) [reply Mathlib/Topology/Algebra/Module/Action.lean]: ... and this really cannot be deduced from the `R R` version because the action is different (and incompatible with the identification of `R` with `R^mop`)

In general, if you can talk about `a * b`, then you can try talking about `a • b` or about `op b • a`. Currently, you gave done the first but not the second.

Comment (kbuzzard) [reply Mathlib/Topology/Algebra/Module/Action.lean]: If this is what Eric means then my comments above still apply, you just replace R with Rᵐᵒᵖ. So if my current understanding of what I'm being asked to do is correct, one solution would be to make a new file containing the one result

```lean
import Mathlib.Algebra.Module.Opposites
import Mathlib.Topology.Algebra.Module.Basic

def MulOpposite.opContinuousLinearEquiv : R ≃L[Rᵐᵒᵖ] Rᵐᵒᵖ where
  __ := (MulOpposite.opLinearEquiv Rᵐᵒᵖ)
```

(because that surely doesn't go in this file), and then in this file we add

```
instance mulOpposite (R : Type*) [Semiring R] [TopologicalSpace R] [TopologicalSemiring R] :
    IsActionTopology Rᵐᵒᵖ R := .iso (MulOpposite.opContinuousLinearEquiv R).symm
```

An alternative approach is to put `MulOpposite.opContinuousLinearEquiv` into `Mathlib.Topology.Algebra.Module.Basic` and add `import Mathlib.Algebra.Module.Opposites` to that file.

Thoughts?

Comment (YaelDillies) [reply Mathlib/Topology/Algebra/Module/Action.lean]: But surely `R` isn't `R`-linearly isomorphic to `Rᵐᵒᵖ`?

Comment (YaelDillies) [reply Mathlib/Topology/Algebra/Module/Action.lean]: Do we secretly have a diamond where `op a • op b` is both `op (b * a)` and `op (a * b)` depending on the instance you're inferring?

Comment (YaelDillies) [reply Mathlib/Topology/Algebra/Module/Action.lean]: I slightly suspect [`MulOpposite.instMulAction`](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Algebra/Group/Action/Opposite.html#MulOpposite.instMulAction) defines `a • op b := op (a • b)` is the issue

Comment (eric-wieser) [reply Mathlib/Topology/Algebra/Module/Action.lean]: I'm not really following this discussion, but I pushed a commit with the sorry filled.

File: Mathlib/Topology/Algebra/Module/Action.lean [hunk 14]
```diff
@@ -0,0 +1,253 @@
...
+    /- Let `R` be a topological ring with topology τR. To prove that `τR` is the action
+    topology, it suffices to prove inclusions in both directions.
+    One way is obvious: addition and multiplication are continuous for `R`, so the
+    action topology is finer than `R` because it's the finest topology with these properties.-/
+    refine le_antisymm ?_ (actionTopology_le R R)
+    /- The other way is more interesting. We can interpret the problem as proving that
+    the identity function is continuous from `R` with the action topology to `R` with
+    its usual topology to `R` with the action topology.
+    -/
+    rw [← continuous_id_iff_le]
```
Comment (eric-wieser) [inline Mathlib/Topology/Algebra/Module/Action.lean:183]: I think this should be the definition; namely, `IsActionTopology` should mean "the canonical map from `WithActionTopology R` to `R` is continuous", where `WithActionTopology R` is a type synonym that puts the action topology on `R`.

This should eliminate all the `@`s below!

Comment (eric-wieser) [reply Mathlib/Topology/Algebra/Module/Action.lean:184]: I tried this out in eric-wieser/withActionTopology, but there's a little more boilerplate needed than expected.

File: Mathlib/Topology/Algebra/Module/Action.lean (hunk 9 above)
Comment (kbuzzard) [reply Mathlib/Topology/Algebra/Module/Action.lean:106]: Yury said (via DM):

Namespace: Either root or TopologicalSpace is fine, because if it's in TopologicalSpace, then you can use letI : TopologicalSpace M := .actionTopology _

Naming: I would call it moduleTopology for the case if someone will separately define some topology associated with a MulAction.

File: Mathlib/Topology/Algebra/Module/Action.lean (hunk 12 above)
Comment (kbuzzard) [reply Mathlib/Topology/Algebra/Module/Action.lean]: > But surely `R` isn't `R`-linearly isomorphic to `Rᵐᵒᵖ`?

https://leanprover-community.github.io/mathlib4_docs/Mathlib/Algebra/Module/Opposites.html#MulOpposite.opLinearEquiv

Can you clarify what you're worried about here?

Comment (YaelDillies) [reply Mathlib/Topology/Algebra/Module/Action.lean]: I guess so yeah. I was working from the assumption that `R` would act on `Rᵐᵒᵖ` on the right, but that seems to be incorrect. All I'm saying is that `R` and `Rᵐᵒᵖ` are different as `Rᵐᵒᵖ`-modules (and should also be different as `R `-modules, but seem to be the same on current mathlib)

Comment (eric-wieser) [reply Mathlib/Topology/Algebra/Module/Action.lean]: Just to be clear, in the context of "self-actions", the only two we care about are `Rᵐᵒᵖ` acting on `R`, and `R` acting on `R`. This was the only case I was talking about originally, and these should usually be on equal footing.

File: Mathlib/Topology/Algebra/Module/Action.lean [hunk 15]
```diff
@@ -159,49 +159,63 @@ instance instSubsingleton (R : Type*) [TopologicalSpace R] (A : Type*) [Add A] [
...
+  eq_actionTopology' := by
+    -- the same argument as above with some tweaks
+    refine le_antisymm ?_ (actionTopology_le Rᵐᵒᵖ R)
+    rw [← continuous_id_iff_le]
+    rw [show (id : R → R) = (fun rs ↦ rs.1 • rs.2) ∘ (fun r ↦ (MulOpposite.op r, 1)) by ext; simp]
+    apply @Continuous.comp _ _ _ _ (@instTopologicalSpaceProd _ _ _ (actionTopology Rᵐᵒᵖ R))
+        (actionTopology Rᵐᵒᵖ R)
+    · exact @continuous_smul _ _ _ _ (actionTopology Rᵐᵒᵖ R) <| ActionTopology.continuousSMul ..
+    · refine @Continuous.prod_mk _ _ _ _ (actionTopology Rᵐᵒᵖ R) _ _ _ MulOpposite.continuous_op <|
+        @continuous_const _ _ _ (actionTopology Rᵐᵒᵖ R) _
```
Comment (kbuzzard) [inline Mathlib/Topology/Algebra/Module/Action.lean:218]: I think my one-line proof is better than this!

Comment (eric-wieser) [reply Mathlib/Topology/Algebra/Module/Action.lean:218]: Oh nice, I missed that! Your proof confused me as much as it did @YaelDillies, but it does indeed seem to work! I think I'd argue tht you should hoist `.iso` toward the top of the file to keep the left and right versions toegther.

File: Mathlib/Topology/Algebra/Module/Action.lean (hunk 12 above)
Comment (eric-wieser) [reply Mathlib/Topology/Algebra/Module/Action.lean]: > All I'm saying is that R and Rᵐᵒᵖ are different as Rᵐᵒᵖ-modules 

This is false? Send `x` to `op x` and show `Rᵐᵒᵖ`-linearity by considering actions by `op r`: `op (op r • x) = op (x * r) = op r * op x = op r • op x`

Comment (eric-wieser) [reply Mathlib/Topology/Algebra/Module/Action.lean]: > An alternative approach is to put `MulOpposite.opContinuousLinearEquiv` into `Mathlib.Topology.Algebra.Module.Basic` and add `import Mathlib.Algebra.Module.Opposites` to that file (of length >= 2400 lines).

This sounds good to me.

Comment (kbuzzard) [reply Mathlib/Topology/Algebra/Module/Action.lean]: Here is what we currently have:
```lean
import Mathlib

variable (R : Type*) [Semiring R]

open MulOpposite

example (a b : R) : a • b = a * b := rfl
example (a b : R) : (op a) • b = b * a := rfl
example (a b : R) : (op a) • (op b) = op (b * a) := rfl
example (a b : R) : a • (op b) = op (a * b) := rfl
```

I think I've got to the bottom of the confusion (Yael might have also done this). Yael is observing that in a parallel universe mathlib could have `a • (op b) = op (b * a)` because if someone asked for a natural left action of `R` on `Rᵐᵒᵖ` then one very reasonable response would be "well there's a natural right action of `R` on `R` so let's use that". This would break the symmetries in the above examples though. Indeed I would have *guessed* that `Rᵐᵒᵖ` and `R` would be different as `R`-modules (they're certainly not in general isomorphic as rings). However mathlib has made other decisions here.

Comment (kbuzzard) [reply Mathlib/Topology/Algebra/Module/Action.lean]: > > An alternative approach is to put `MulOpposite.opContinuousLinearEquiv` into `Mathlib.Topology.Algebra.Module.Basic` and add `import Mathlib.Algebra.Module.Opposites` to that file (of length >= 2400 lines).
> 
> This sounds good to me.

OK done. I've also (in another commit) changed the name to "module topology" following Yury's suggestion.

File: Mathlib/Topology/Algebra/Module/Action.lean (hunk 15 above)
Comment (kbuzzard) [reply Mathlib/Topology/Algebra/Module/Action.lean]: I've moved iso earlier, and I added `M ≃L[R] Mᵐᵒᵖ` and the new import to the 2400-line file.

File: Mathlib/Topology/Algebra/Module/Action.lean [hunk 16]
```diff
@@ -0,0 +1,253 @@
...
+
+/-!
+We now fix once and for all a topological semiring `R`.
+
+We first prove that the module topology on `R` considered as a module over itself,
+is `R`'s topology.
+-/
+
+/-- The topology on a topological semiring `R` agrees with the module topology when considering
+`R` as an `R`-module. -/
```
Comment (eric-wieser) [inline Mathlib/Topology/Algebra/Module/Action.lean:206]:
```suggestion
`R` as an `R`-module via `Semiring.toModule`. -/
```
and similar for the instance below.

File: Mathlib/Topology/Algebra/Module/Action.lean [hunk 17]
```diff
@@ -0,0 +1,253 @@
...
+-/
+variable (R : Type*) [TopologicalSpace R] (A : Type*) [Add A] [SMul R A]
+
+/-- The module topology, for a module `A` over a topological ring `R`. It's the finest topology
+making addition and the `R`-action continuous, or equivalently the finest topology making `A`
+into a topological `R`-module. More precisely it's the Inf of the set of
+topologies with these properties; theorems `continuousSMul` and `continuousAdd` show
+that the module topology also has these properties. -/
+abbrev moduleTopology : TopologicalSpace A :=
+  sInf {t | @ContinuousSMul R A _ _ t ∧ @ContinuousAdd A t _}
```
Comment (eric-wieser) [inline Mathlib/Topology/Algebra/Module/Action.lean:108]: Perhaps it's worth a comment here or in the module docstring about how including `ContinuousNeg` is not necessary; maybe because in practice we derive this from `ContinuousSMul`.

File: Mathlib/Topology/Algebra/Module/Basic.lean [hunk 18]
```diff
@@ -2400,4 +2401,14 @@ end Submodule
 
 end Quotient
 
+namespace MulOpposite
+
+variable (R : Type*) [Semiring R] [τR : TopologicalSpace R] [TopologicalSemiring R]
+  {M : Type*} [AddCommMonoid M] [Module R M] [TopologicalSpace M] [ContinuousSMul R M]
+
+def opContinuousLinearEquiv : M ≃L[R] Mᵐᵒᵖ where
```
Comment (eric-wieser) [inline Mathlib/Topology/Algebra/Module/Basic.lean:2409]:
```suggestion
/-- `MulOpposite.op` as a continuous linear equivalence. -/
@[simps!]
def opContinuousLinearEquiv : M ≃L[R] Mᵐᵒᵖ where
```

File: Mathlib/Topology/Algebra/Module/Action.lean (hunk 12 above)
Comment (YaelDillies) [reply Mathlib/Topology/Algebra/Module/Action.lean]: > > All I'm saying is that R and Rᵐᵒᵖ are different as Rᵐᵒᵖ-modules 
> 
> This is false? Send `x` to `op x` and show `Rᵐᵒᵖ`-linearity by considering actions by `op r`: `op (op r • x) = op (x * r) = op r * op x = op r • op x`
> 

I am now confused because I was dead certain one could not deduce the `R Rᵐᵒᵖ` result from the `R R` one

Comment (YaelDillies) [reply Mathlib/Topology/Algebra/Module/Action.lean]: > > All I'm saying is that R and Rᵐᵒᵖ are different as Rᵐᵒᵖ-modules 
> 
> This is false? Send `x` to `op x` and show `Rᵐᵒᵖ`-linearity by considering actions by `op r`: `op (op r • x) = op (x * r) = op r * op x = op r • op x`
> 

I was confused because I was dead certain one could not deduce the `R Rᵐᵒᵖ` result from the `R R` one. I guess one actually can because the multiplication on `M` doesn't matter.

Comment (kbuzzard) [reply Mathlib/Topology/Algebra/Module/Action.lean]: Yes that's the point: if R acts on M then the R-action on M^mop in mathlib is defined to be the R-action on M because in this generality there's no other choice. But when M=R there is a second choice because R acts naturally both on the left and right of M in this case.

File: Mathlib/Topology/Algebra/Module/Action.lean (hunk 14 above)
Comment (kbuzzard) [reply Mathlib/Topology/Algebra/Module/Action.lean]: Are you suggesting I should refactor the definition in this PR?

File: Mathlib/Topology/Algebra/Module/Action.lean (hunk 16 above)
Comment (kbuzzard) [reply Mathlib/Topology/Algebra/Module/Action.lean]: For a mathematician reading that docstring, they will think nothing at all about the claim that a ring is a module over itself because it's the canonical example of a module and the first one that everyone sees, but if I start *explaining* why a ring is a module over itself by throwing around mathlibisms then their first thought may be "what the heck is `Semiring.toModule` and what is happening here? Is R is a module over itself in some weird way that the computer scientists have thought of"?

File: Mathlib/Topology/Algebra/Module/Action.lean (hunk 17 above)
Comment (kbuzzard) [reply Mathlib/Topology/Algebra/Module/Action.lean]: I would imagine that in the situation where R did not have a neg but M did, there is a chance that neg on M is not continuous. I strongly believe that the mathematical definition of a topological module over a topological ring as being one where add and smul was continuous will have been made without any consideration whatsoever of the semiring case -- semirings are a mathlibism (nat is special-cased in mathematics and nnreal is just a subset of real without any attempt to build a theory on top of it; as far as I know all this semiring stuff is unique to mathlib).

Comment (kbuzzard) [reply Mathlib/Topology/Algebra/Module/Action.lean]: Indeed how about R=nnreal, and M=real with the usual topology plus "every subset of (-infty,0] is open". Because the R-action can only push forward, I think M is a topological module in the sense of the natural generalisation of the Wikipedia definition, but neg is not continuous. Aah how about this: I say that *when R is a ring* ContinuousNeg is automatic.

Comment (kbuzzard) [reply Mathlib/Topology/Algebra/Module/Action.lean]: OK I've rewritten a bunch of comments and in particular included the observation that neg is continuous in the ring case.

File: Mathlib/Topology/Algebra/Module/Action.lean (hunk 12 above)
Comment (YaelDillies) [reply Mathlib/Topology/Algebra/Module/Action.lean]: Yes absolutely. I am happy to see it resolved.

File: Mathlib/Topology/Algebra/Module/Basic.lean [hunk 19]
```diff
@@ -2400,4 +2401,15 @@ end Submodule
 
 end Quotient
 
+namespace MulOpposite
+
+variable (R : Type*) [Semiring R] [τR : TopologicalSpace R] [TopologicalSemiring R]
+  {M : Type*} [AddCommMonoid M] [Module R M] [TopologicalSpace M] [ContinuousSMul R M]
+
+/-- The function `op` is a continuous linear equivalence. -/
+def opContinuousLinearEquiv : M ≃L[R] Mᵐᵒᵖ where
```
Comment (eric-wieser) [inline Mathlib/Topology/Algebra/Module/Basic.lean:2410]:
```suggestion
@[simps!]
def opContinuousLinearEquiv : M ≃L[R] Mᵐᵒᵖ where
```

File: Mathlib/Topology/Algebra/Module/Action.lean (hunk 14 above)
Comment (kbuzzard) [reply Mathlib/Topology/Algebra/Module/Action.lean]: After a private discussion with Eric he suggested that rather than the refactor I should add the lemma saying that if A is a topological module and the identity map from (A,standard) to (A,module topology) is continuous then A has the module topology. I've added this in `ad2d292`.

File: Mathlib/Topology/Algebra/Module/ModuleTopology.lean [hunk 20]
```diff
@@ -0,0 +1,267 @@
...
+ring, and `A` is an `R` module with the module topology. -/
+theorem ModuleTopology.continuousSMul : @ContinuousSMul R A _ _ (moduleTopology R A) :=
+  /- Proof: We need to prove that the product topology is finer than the pullback
+     of the module topology. But the module topology is an Inf and thus a limit,
+     and pullback is a right adjoint, so it preserves limits.
+     We must thus show that the product topology is finer than an Inf, so it suffices
+     to show it's a lower bound, which is not hard. All this is wrapped into
+     `continuousSMul_sInf`.
+  -/
+  continuousSMul_sInf <| fun _ _ ↦ by simp_all only [Set.mem_setOf_eq]
```
Comment (eric-wieser) [inline Mathlib/Topology/Algebra/Module/ModuleTopology.lean]: This is a long comment for a very small amount of proof!

**Review by eric-wieser — APPROVED** [review]
bors d+

Thanks! I pushed two small golfs, feel free to merge before CI if they look fine to you. (I did test them)

File: Mathlib/Topology/Algebra/Module/ModuleTopology.lean (hunk 20 above)
Comment (kbuzzard) [reply Mathlib/Topology/Algebra/Module/ModuleTopology.lean]: Yes, and in my opinion more of mathlib should look like this!

**Comment by kbuzzard** [comment]
> Thanks! I pushed two small golfs, feel free to merge before CI if they look fine to you. (I did test them)

They book look great to me! Thanks!
